US04835153
Diethyl(1,2,5-trimethyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate.
In 40 ml of water was suspended 11.2 g of pyruvic aldehyde sodium bisulfite addition compound, and 2.3 g of N,N'-dimethylethylenediamine was added dropwise at 0° C. and the mixture was stirred for additional 1 hour. To this solution was added dropwise at 0° C. the dithiolate solution, which had been prepared previously by the reaction of 3.2 g of diethyl malonate with 1.8 g of carbon disulfide in 20 ml of dimethylsulfoxide in the presence of 9.7 g of 30% aqueous potassium hydroxide. After the reaction mixture was stirred for additional 1 hour, 50 ml of water was added to the solution. The solid precipitated was collected by filtration and recrystallized from ethyl acetate-n-hexane to give 1.7 g of the desired product.

reactant | N,N'-dimethylethylenediamine | 2.3 g | CNCCNC | C4H12N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | diethyl malonate | 3.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium hydroxide | 9.7 g | [OH-].[K+]
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | carbon disulfide | 1.8 g | C(=S)=S | CS2
product | Diethyl(1,2,5-trimethyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate | 1.7 g, Yield 24% | C(C)OC(C(C(=O)OCC)=C1SC2N(CCN(C2(S1)C)C)C)=O | C15H24N2O4S2
